US07709482B2
The compound of formula (Db), ethyl 2-(5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-6-yl)acetate, (6.6 g, 26.8 mmol) was dissolved in ethanol (EtOH) (30 mL), then 10% potassium hydroxide (KOH) aqueous solution (37.5 mL, 67 mmol) was added and the resulting mixture was refluxed for 2 h. After cooling to ambient temperature, the EtOH was removed by evaporation. The residue was extracted with EtOAc twice (15 mL×2). The aqueous layer was then transferred into a flask and cooled with an ice-water bath, con. HCl was added dropwise to adjust pH to about 2.0. EtOAc (60 mL) was then added, the layers were separated, and the aqueous layer was extracted with EtOAc. The combined extracts were washed with brine. After being dried (MgSO4), filtered, and concentrated, the compound of formula (Dc), 2-(5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-6-yl)acetic acid, was obtained as an orange oil (5.7 g, 97%); 1H NMR (300 MHz, CDCl3) δ: 7.71-7.68 (m, 1H), 7.41-7.20 (m, 3H), 3.37-3.31 (m, 1H), 3.12-2.91 (m, 3H), 2.57-2.49 (m, 1H), 2.15-1.90 (m, 2H), 1.75-1.62 (m, 2H); LC-MS: purity: 100%; MS (m/e): 219 (MH+).

reactant | ethyl 2-(5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-6-yl)acetate | 26.8 mmol, 6.6 g | O=C1C(CCCC2=C1C=CC=C2)CC(=O)OCC | C15H18O3
reactant | potassium hydroxide | 67 mmol, 37.5 mL | [OH-].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-6-yl)acetic acid | O=C1C(CCCC2=C1C=CC=C2)CC(=O)O | C13H14O3
